US08624034B2
Step D) Ethyl (2R)-4-[5-fluoro-2-oxo-4-(4-{[trans-4-(tetrahydro-2H-pyran-2-yloxy)cyclohexyl]methoxy}phenyl)pyridin-1(2H)-yl]-2-methyl-2-(methylsulfonyl)butanoate
Pd(dppf)Cl2 (350 mg, 0.431 mmol) was added to a solution of ethyl (2R)-4-(5-fluoro-4-iodo-2-oxopyridin-1(2H)-yl)-2-methyl-2-(methylsulfonyl)butanoate (1.6 g, 3.6 mmol), 2-[(trans-4-{[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy]methyl}cyclohexyl)oxy]tetrahydro-2H-pyran (1.9 g, 4.49 mmol), and potassium phosphate tribasic (2.9 g, 10.8 mmol) in 2-methyl tetrahydrofuran/water (5:1, 240 mL). The reaction mixture was heated to 80° C. and stirred at this temperature for 16 h. The reaction was allowed to cool to rt, and water (50 mL) was added. The mixture was extracted with EtOAc (3×150 mL). The combined organic phases were dried (Na2SO4), filtered, and concentrated under reduced pressure to afford the title compound as a light tan solid (1.4 g, 64%). MS (LCMS) m/z 608.2 (M+1).

reactant | ethyl (2R)-4-(5-fluoro-4-iodo-2-oxopyridin-1(2H)-yl)-2-methyl-2-(methylsulfonyl)butanoate | 3.6 mmol, 1.6 g | FC=1C(=CC(N(C1)CC[C@](C(=O)OCC)(S(=O)(=O)C)C)=O)I | C13H17FINO5S
reactant | 2-[(trans-4-{[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy]methyl}cyclohexyl)oxy]tetrahydro-2H-pyran | 4.49 mmol, 1.9 g | CC1(OB(OC1(C)C)C1=CC=C(OC[C@@H]2CC[C@H](CC2)OC2OCCCC2)C=C1)C | C24H37BO5
reactant | potassium phosphate tribasic | 10.8 mmol, 2.9 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | water | 50 mL | O | H2O
solvent | 2-methyl tetrahydrofuran water | 240 mL | CC1OCCC1.O
catalyst | Pd(dppf)Cl2 | 0.431 mmol, 350 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | Ethyl (2R)-4-[5-fluoro-2-oxo-4-(4-{[trans-4-(tetrahydro-2H-pyran-2-yloxy)cyclohexyl]methoxy}phenyl)pyridin-1(2H)-yl]-2-methyl-2-(methylsulfonyl)butanoate | 1.4 g, 64% | FC=1C(=CC(N(C1)CC[C@](C(=O)OCC)(S(=O)(=O)C)C)=O)C1=CC=C(C=C1)OC[C@@H]1CC[C@H](CC1)OC1OCCCC1 | C31H42FNO8S
